US06689922B1
5-{2-[4-(5-Hydroxy-5-methylhexyl)phenyl]ethyl}benzene-1,3-diol
414 mg (1.27 mmol) of 5-{2-[4-(5-hydroxy-5-methylhexyl)phenyl]vinyl}benzene-1,3-diol in 40 ml of dioxane and 42 mg of 10% palladium/carbon are placed in a reactor. A hydrogen pressure of 7 bar is exerted for 4 hours at room temperature. The reaction medium is filtered on celite and the filtrate is evaporated. The product is crystallized from an ethyl acetate/hexane mixture.

reactant | 5-{2-[4-(5-hydroxy-5-methylhexyl)phenyl]vinyl}benzene-1,3-diol | 1.27 mmol, 414 mg | OC(CCCCC1=CC=C(C=C1)C=CC=1C=C(C=C(C1)O)O)(C)C | C21H26O3
reactant | hydrogen | [H][H] | H2
solvent | dioxane | 40 ml | O1CCOCC1 | C4H8O2
catalyst | palladium/carbon | 42 mg | [Pd] | Pd
product | 5-{2-[4-(5-Hydroxy-5-methylhexyl)phenyl]ethyl}benzene-1,3-diol | OC(CCCCC1=CC=C(C=C1)CCC=1C=C(C=C(C1)O)O)(C)C | C21H28O3
